Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematuria and toxic metabolic encephalopathy
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old M with hx of cognitive disorder, atrial 
fibrillation, COPD, HTN, strep bacteremia ___ foot infection, 
CAD s/p MI who was recently admitted for massive hematuria s/p 
embolization of the anterior branches of the bilateral internal 
iliac arteries, now admitted for recurrent hematuria and AMS.  
The patient was in his usual state of health (functional in 
ADLs, living at home with his wife) until ___ in which he 
became infected with strep with a foot infection, he became 
bacteremic and has had multiple hospitalizations since this 
time. On ___, the patient had an MI, was treated at an OSH s/p 
stent placement and was started on ASA/Plavix. During this 
hospitalization, he struggled with urinary obstruction and had a 
urologic procedure but with subsequent difficulty with 
hematuria.  
Mr. ___ was admitted on ___ with hemorrhagic shock due to 
hematuria. The bleeding was thought to be from the bladder neck 
or prostatic urethra. He was transfused, stabilized, placed on 
continuous bladder irrigation and ultimately taken for ___ 
embolization of the blood supply to the prostate--the bilateral 
anterior branches of the internal iliac arteries. His last 
hospital course was c/b severe delirium, requiring psych consult 
and antipsychotics. His bleeding stopped and his CBI was 
discontinued, and on ___ he was discharged to rehab.  
Since leaving, he became confused and combative at rehab and 
presented to ___. He was placed on the Urology 
service there and was placed on CBI due to recurrent hematuria. 
He is intermittently confused and agitated, and pulled his 3-way 
Foley out recently. He was later transferred to the Hospitalist 
service and no intervention was undertaken. Bleeding is still 
ongoing, likely oozing per hospitalist. His hct dropped from 30 
to 27 today, which is above his baseline after recent discharge. 
The urologist turned off CBI today; old blood was seen but no 
clots noted. He was also diagnosed with a pseudomonal UTI today 
and was started on levofloxacin for treatment. Family requested 
transfer to ___.  
 
Currently, patient is A&Ox2 with no complaints. Urine tea 
colored in the foley bag but light yellow urine in the tubing.  

 
Past Medical History:
CAD s/p MI and LAD stent ___
pAfib
COPD
NIDDM
HTN
Strep bacteremia ___ foot wound
MRSA infection hx
Severe hematuria requiring bilateral embolizations of the 
anterior division of the internal iliac arteries ___
Cognitive decline

 
Social History:
___
Family History:
Mother: colon cancer
Father: ___, dementia
Siblings: none
Children: 3 sons - healthy, 15 grandchildren - 1 died of trisomy 
___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.4 108/63 66 18 100%RA  
GEN: lying in bed, no acute distress  
HEENT: MMM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
GU: 3 way foley in place. CBI currently off and urine is dark 
tea colored.  
NEURO: A&Ox2 to person and place, unable to do days of the week 
backwards. CN II-XII grossly intact, motor function grossly 
normal  

DISCHARGE PHYSICAL EXAM:
VSS
GEN: lying in bed, responsive 
HEENT: MMM, anicteric sclerae 
NECK: Supple  
PULM: CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
GU: 3 way foley in place. CBI currently off and urine is clear 
yellow.  
 
Pertinent Results:
ADMISSION LABS:
___ 05:30AM BLOOD WBC-9.3 RBC-3.13* Hgb-9.5* Hct-27.7* 
MCV-89 MCH-30.3 MCHC-34.2 RDW-14.7 Plt ___
___ 05:30AM BLOOD ___ PTT-31.8 ___
___ 05:30AM BLOOD Glucose-77 UreaN-13 Creat-1.0 Na-143 
K-4.5 Cl-108 HCO3-26 AnGap-14
___ 05:30AM BLOOD Calcium-8.1* Phos-2.4* Mg-1.9

DISCHARGE LABS:
___ 01:23AM URINE Hours-RANDOM UreaN-293 Creat-154 Na-86 
K-57 Cl-79
___ 01:23AM URINE Osmolal-445

MICRO: None here
Reviewed urine cx at OSH. Grew pan-sensitive pseudomonas.

STUDIES: 
EKG ___:
Sinus rhythm. Non-specific ST-T wave changes. Compared to the 
previous tracing of ___ no change.

 
Brief Hospital Course:
___ year old M with hx of cognitive disorder, atrial 
fibrillation, COPD, HTN, strep bacteremia ___ foot infection, 
CAD s/p MI who was recently admitted for massive hematuria s/p 
embolization of the anterior branches of the bilateral internal 
iliac arteries, admitted for recurrent hematuria and AMS.

ACUTE ISSUES:

# Gross Hematuria with acute blood loss anemia: Patient with 
recent severe hematuria resulting in hemorrhagic shock and 
requiring embolization of the anterior division of the b/l 
internal iliac arteries on ___. He presented with recurrent 
hematuria requiring intermittent CBI at ___. 
During admission his hct remained stable. Bleeding likely due to 
continued oozing of the prostate/bladder neck, not completely 
resolved with embolization, and exacerbated given trauma from 
recent pulled Foley. Urology consulted. He was placed on CBI 
here, however his urine quickly cleared and by discharge had 
been off of CBI for several days. Urology is planning for direct 
prostatic embolization as outpatient if the patient has ongoing 
bleeding. He was discharged back to rehab with 3-way Foley in 
place.  

# Orthostatic hypotension: Patient with repeated orthostasis 
during admission, likely multifactorial: due to poor PO intake, 
finasteride and tamsulosin for BPH, and amlodipine and 
lisinopril for HTN. His antihypertensives were held and his 
tamsulosin was stopped. His finasteride was continued given its 
hemostatic effect. By discharge the patient's blood pressures 
had improved. His blood pressures should be monitored and his 
antihypertensives should be restarted if needed.

# ___: The patient developed ___ during admission with high 
creatinine of 1.7. It improved with IVF, and by discharge it was 
1.0. Likely due to pre-renal given low pressures, poor PO 
intake, and resolution with IVF.
  
# Toxic metabolic encephalopathy: Patient with altered mental 
status at the rehab and OSH, and in his confusion he pulled out 
his urinary catheter at the OSH. The patient has had ongoing 
issues with delirium for some time, and required psychiatry 
consult last admission. Delirium likely due to baseline 
dementia, pseudomonas UTI, tubes/lines and new environment. He 
was continued on his Zyprexa 5mg qhs and by discharge he was 
less agitated.
 
# Pseudomonas UTI: Diagnosed ___ ___. Urine 
culture growing pan-sensitive pseudomonas. He was started on 
levofloxacin and will continue this medication for a total of 7 
days until ___.  

CHRONIC ISSUES:
 
# CAD: S/p recent MI with stent to LAD. His ASA, Plavix, 
atorvastatin and metoprolol were continued.
 
# AFib: Patient with CHADS2 score of 2, not on Coumadin. He was 
continued on aspirin, digoxin, and metoprolol. Unclear if 
anticoagulation has been considered, however given ongoing 
hematuria, it was not started during admission. 

# COPD: Was given albuterol and ipratropium prn.  

# DM2: Continued insulin regimen: Glargine 5 units qhs with SSI. 
 
 
# HTN: Patient on home lisinopril 20 mg PO DAILY and amlodipine 
5 mg PO DAILY. Given hypotension both were stopped during 
admission. His BPs should be monitored and these medications 
restarted if needed. 
 
# GERD: Continued famotidine 20 mg PO BID  

TRANSITIONAL ISSUES:
- Continue levofloxacin until ___
- Patient will follow up with Dr. ___ in ___ at 
___ for evaluation and possible Foley discontinuation. Foley 
should not be removed or exchanged until that time. If patient 
has mild hematuria, please call Dr. ___ in ___ for 
further evaluation. If patient has significant or prolonged 
hematuria or is hemodynamically stable, please transport patient 
to ___. 
- Patient had MI in ___ and should be continued on 
ASA/Plavix as per his cardiologist for ___ year - Cardiologist is 
___ at ___ and he should follow-up when he 
is discharged from rehab. Please continue discussion for need 
for digoxin.
- Due to recurrent orthostatic hypotension, the patient's 
amlodipine, lisinopril, and tamsulosin were held. Please restart 
if patient becomes hypertensive.
- Patient's Lasix was held at discharge given concern for poor 
PO intake. Please continue to assess patient's weight and 
cardiopulmonary status and restarted as tolerated especially if 
patient's PO intake improves.
- Patient is on standing Zyprexa 5mg PO QHS for sleep and to 
prevent agitation. Consider discontinuing this medication if no 
longer needed. Deliriougenic medications should be avoided, 
including benzodiazepines and other sedative/hypnotics, 
anticholinergics, antihistamines.
- AFib with CHADS2 score of 2, not on Coumadin. Currently on 
mandatory aspirin/Plavix. Unclear if anticoagulation has been 
considered. 
- Evidence of pulmonary HTN on TTE and CT. Patient should have 
outpatient sleep study.
- Liver finding during previous admission: Likely post-operative 
based on appearance but eventual MRI of the liver to exclude a 
primary mass can be considered.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Bisacodyl 10 mg PR QHS:PRN constipation 
4. Clopidogrel 75 mg PO DAILY 
5. Finasteride 5 mg PO DAILY 
6. Lisinopril 20 mg PO DAILY 
7. Metoprolol Tartrate 12.5 mg PO Q8H 
8. Tamsulosin 0.4 mg PO QHS 
9. Amlodipine 5 mg PO DAILY 
10. Docusate Sodium (Liquid) 100 mg PO BID 
11. Famotidine 20 mg PO BID 
12. Senna 8.6 mg PO BID:PRN Constipation 
13. Belladonna & Opium (16.2/30mg) 1 SUPP PR QD:PRN bladder 
spasm 
14. Florastor (saccharomyces boulardii) 250 mg oral TID 
15. Guaifenesin 5 mL PO Q6H:PRN cough 
16. Magnesium Oxide 400 mg PO DAILY 
17. Potassium Chloride 20 mEq PO DAILY 
18. Lactulose 30 mL PO BID 
19. Digoxin 0.125 mg PO DAILY 
20. Glargine 5 Units Bedtime
Insulin SC Sliding Scale using UNK Insulin
21. OLANZapine 5 mg PO QHS 
22. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
23. Levofloxacin 750 mg PO Q24H 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Belladonna & Opium (16.2/30mg) 1 SUPP PR QD:PRN bladder spasm 

4. Bisacodyl 10 mg PR QHS:PRN constipation 
5. Clopidogrel 75 mg PO DAILY 
6. Digoxin 0.125 mg PO DAILY 
7. Docusate Sodium (Liquid) 100 mg PO BID 
8. Famotidine 20 mg PO BID 
9. Finasteride 5 mg PO DAILY 
10. Glargine 5 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
11. Lactulose 30 mL PO DAILY:PRN contipation 
12. Metoprolol Tartrate 12.5 mg PO Q8H 
13. OLANZapine 5 mg PO QHS 
14. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg one tablet(s) by mouth q4h prn Disp #*30 
Tablet Refills:*0
15. Senna 8.6 mg PO BID:PRN Constipation 
16. Florastor (saccharomyces boulardii) 250 mg oral TID 
17. Levofloxacin 500 mg PO Q24H 
Please continue through ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
- Intermittent hematuria
- Pseudomonas UTI
- Toxic metabolic encephalopathy

Secondary Diagnosis: 
- Coronary Artery Disease
- Myocardial Infarction s/p drug eluting stent placement 
- Insulin dependent diabetes type 2

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay. You were 
admitted for persistent hematuria. You are likely having ongoing 
bleeding from your prostate that is exacerbated by aspirin and 
plavix use. Urology consulted during admission. You required 
intermittent bladder irrigation, however, by discharge your 
bleedign had improved. You may need direct prostatic 
embolization in the future if you have ongoing bleeding.

In addition, you were found to have a urinary tract infection at 
the other hospital and were put on antibiotics. You should 
continue levofloxacin until ___. You were also intermittently 
confused during your hospital stay, but by discharge you were 
improving. 

We wish you the best!
Your ___ care team
 
Followup Instructions:
___